US03953457
2,4-Dichloroquinoline (1.0 mole) was combined with 1 mole of anhydrous hydrazine in 4 liters of dioxane. The reaction mixture was heated at reflux for 12 hours at which time the reaction mixture was allowed to cool and the dioxane was stripped off. The resultant solid was refluxed for twelve hours in formic acid, then allowed to cool and the formic acid stripped off. The 5-chloro-s-triazolo(4,3-a)quinoline was then isolated and purified by column chromatography. A silica gel column was used with a 5 percent methanol/95 percent ethyl acetate solution as the eluant. The purified product melted at 242°-3.5°C.

reactant | 2,4-Dichloroquinoline | 1.0 mole | ClC1=NC2=CC=CC=C2C(=C1)Cl | C9H5Cl2N
reactant | hydrazine | 1 mole | NN | H4N2
reactant | dioxane | 4 liters | O1CCOCC1 | C4H8O2
solvent | formic acid | C(=O)O | CH2O2
product | 5-chloro-s-triazolo(4,3-a)quinoline | ClC1=CC=2N(C3=CC=CC=C13)C=NN2 | C10H6ClN3
